US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-methyl-cyclohexyl)-amine, Hydrochloride (Compound A20)
Was prepared according to Method A from 2,4-dichloroquinazoline, 4-methylcyclohexylamine and 3,5-dimethylpyrazole. Mp. 80.4-81.6° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-methylcyclohexylamine | CC1CCC(CC1)N | C7H15N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-methyl-cyclohexyl)-amine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1CCC(CC1)C | InChI=1S/C20H25N5.ClH/c1-13-8-10-16(11-9-13)21-19-17-6-4-5-7-18(17)22-20(23-19)25-15(3)12-14(2)24-25;/h4-7,12-13,16H,8-11H2,1-3H3,(H,21,22,23);1H
